US04889953
2-O-Ethyl-1-O-[2-(2-hydroxyethoxy)ethyl]-3-O-octadecylglycerol
3.7 g (5.8 millimole) of 1-O-octadecyl-3-O-[2-(2-trityloxyethoxy)ethyl]glycerol and 1.5g (10 millimole) of diethyl sulfate were dissolved in 10 ml of dioxane, to which 96 mg (0.3 millimole) of cetyltrimethylammonium chloride and 2.4 g (30 millimole) of 50% sodium hydroxide were added, and the mixture was stirred at room temperature for 72 hours. Water and dichloromethane were added to the mixture and the resulting mixture was shaken for partition. Dichloromethane was distilled off and the residue was dissolved in a mixture of 20 ml of methanol and 25 ml of dioxane, to which 3 ml of concentrated hydrochloric acid was added. The mixture was stirred at 80° C. for 16 hours and then water was added to the mixture. The organic solvent was distilled off under reduced pressure, and water and ether were added to the residue. The resulting mixture was shaken for partition and ether was distilled off. The residue was purified by silica gel column chromatography (Merck Co., Art. 7734, 100 g, Eluant: hexane-ethyl acetate=3:1-1:1), to give 1.95 g (73%) of the above-captioned compound.

reactant | 1-O-octadecyl-3-O-[2-(2-trityloxyethoxy)ethyl]glycerol | 5.8 millimole, 3.7 g | C(CCCCCCCCCCCCCCCCC)OCC(O)COCCOCCOC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C44H66O5
reactant | diethyl sulfate | 10 millimole, 1.5g | S(=O)(=O)(OCC)OCC | C4H10O4S
reactant | sodium hydroxide | 30 millimole, 2.4 g | [OH-].[Na+]
reactant | Water | O | H2O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
catalyst | cetyltrimethylammonium chloride | 0.3 millimole, 96 mg | [Cl-].C(CCCCCCCCCCCCCCC)[N+](C)(C)C
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-O-Ethyl-1-O-[2-(2-hydroxyethoxy)ethyl]-3-O-octadecylglycerol | 1.95 g, 73% | C(C)OC(COCCOCCO)COCCCCCCCCCCCCCCCCCC | C27H56O5
